2156-02-04 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2156-2-3**] 10:11 PM
 MULTI LUMEN - START [**2156-2-3**] 10:19 PM
   Overnight events:
   -- arterial line placed
   -- sugars were low-normal on insulin gtt, switched over to ISS
   -- easily weaned Fi)2 dwon to 40%, changed over to PSV this AM
   -- remains on 1 pressor
   Allergies:
   Morphine
   pt gets "itchy"
   Last dose of Antibiotics:
   Piperacillin - [**2156-2-3**] 11:12 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.15 mcg/Kg/min
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-4**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 81 (56 - 81) bpm
   BP: 121/79(93) {101/61(73) - 121/87(94)} mmHg
   RR: 17 (12 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SA (Sinus Arrhythmia)
    CVP: 18 (16 - 18)mmHg
   Mixed Venous O2% Sat: 47 - 47
   Total In:
                                                                  2,120 mL
                                                                    175 mL
   PO:
   TF:
   IVF:
                                                                    120 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,120 mL
                                                                    175 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 488 (488 - 500) mL
   Vt (Spontaneous): 488 (488 - 488) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 82
   PIP: 25 cmH2O
   SpO2: 99%
   ABG: 7.36/49/121
   Ve: 7.5 L/min
   Physical Examination
   GENERAL: intubated, sedated, does not respond to voice or pain
   HEENT: NC/AT, MMM
    NECK: RIJ in place, JVP not grossly elevated
   CARDIAC: RRR, no murmur/r/g.
   LUNG: anterior rhonchi improved, remains clear posteriorly and at
   bases. No crackles appreciated
   ABDOMEN: distended but soft, no rebound/guarding, + hepatomegaly, no
   obvious fluid wave
   EXT: extremities warmer, no cyanosis, clubbing or edema
   SKIN: no excoriations, no rashes. LLE with superficial knee abrasion
   Labs / Radiology
   229 K/uL
   10.8 g/dL
   55 mg/dL
   5.2 mg/dL
   28 mEq/L
   6.4 mEq/L
   37 mg/dL
   98 mEq/L
   135 mEq/L
   32.3 %
   10.7 K/uL
        [image002.jpg]
                             [**2156-2-4**]  02:55 AM
   WBC
   10.7
   Hct
   32.3
   Plt
   229
   Cr
   5.2
   Glucose
   55
   Other labs: PT / PTT / INR:17.2/31.5/1.6, Ca++:8.4 mg/dL, Mg++:2.2
   mg/dL, PO4:3.6 mg/dL
   Imaging: [**2-4**] CXR: my read:
   ETT and OG tube in standard position. Persistent bilateral pleural
   effusions. Cardiomegaly unchanged. No overt pulmonary edema. Loss of
   left hemidiaphragm suggests retrocardiac infiltrate
   [**2-3**] CXR
   SUPINE AP VIEW OF THE CHEST: Compared to the previous study performed
   approximately 40 minutes earlier, there has been interval placement of
   a right
   internal jugular central venous catheter tip, terminating within the
   mid SVC.
   No pneumothorax. There has been continued interval worsening aeration
   of both lower lobes with small bilateral pleural effusions persisting.
   Mild pulmonary edema is not significantly changed in the interval.
   Endotracheal tube and orogastric tube remain in unchanged positions.
   Microbiology: [**2156-2-3**] 11:21 pm SPUTUM     Site: ENDOTRACHEAL
         Source: Endotracheal.
      GRAM STAIN (Final [**2156-2-4**]):
         [**11-7**] PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
      RESPIRATORY CULTURE (Preliminary):
   [**2-3**] BCx: NGTD
   Assessment and Plan
   59M with CAD, CHF, DM, ESRD on HD, who presents with hypotension and
   severe sepsis.
   # Severe Sepsis - evidence of initial hypoperfusion with lactate peak
   in ED of 8.2, improved to 5.4 with fluids in ED. Unclear etiology but
   most likely source at this point appear pulmonary.
   -- will cover potential source with HAP PNA antibiotics (Vanc/Zosyn)
   -- endotracheal sputum GS with GPCs, GPRs, follow up S/S
   -- f/u blood cultures
   -- CVPs have been adequate at 18
   -- titrating levophed to MAP >65
   -- attempt to keep central SvO2 > 70%: no need for transfusions given
   HCT of >30, but consider dobutamine to increase cardiac output.
   However, this may promote his atrial tachycardia
   -- had good glycemic control without insulin gtt, will change to SSI
   this AM
   .
   # Respiratory Failure - intubated for airway protection in setting of
   AMS although never clearly had documented desats
   -- eval and treating for possible PNA as above
   -- changed to PSV without problem this AM,  FiO2 down to 40%
   -- RSBI 82, would attempt SBT once sedation weaned off
   -- ABGs prn
   -- VAP ppx while intubated
   .
   # ESRD on HD: Patient with last HD on [**2-2**]. Dry weight 66 kg per OMR.
   -- d/w renal re: CVVH while in ICU
   -- Hold nephrotoxic agents
   -- Renally dose medications
   -- continue cinecalcet
   .
   # HyperKalemia
   -- s/p kayexylate and insulin overnight
   -- EKG without peaked T waves
   -- lytes management will likely be in HD
   # CAD s/p MI -
   -- continue medical management with ASA, statin
   -- hold BB, ACE-I in setting of sepsis
   .
   # Chronic systolic CHF - EF 30%.
   -- hold BB, lisinopril as patient is on pressors
   .
   # hx of atrial tachycardia - not on Coumadin [**2-16**] GI bleeds.
   -- continue ASA, amiodarone
   -- holding BB for now given sepsis
   .
   # DM: on RISS and standing NPH, but reportedly with poor compliance.
   Last HgB A1c 7.4%.
   -- insulin SS, maintain  tight glycemic control, FSG <150
   -- continue neurontin for diabetic neuropathic pain
   .
   # Depression
   -- continue sertraline 100mg daily
   .
   # FEN/GI:
   -- NPO
   -- nutrition c/s for TFs
   .
   # PROPHY:
   -- heparin sQ, PPI, bowel regimen
   # ACCESS:
   -- CVL placed [**2-3**] in ED
   -- L arm fistula for HD
   .
   # CODE STATUS: FULL
   .
   # COMM:
   -- wife [**Name (NI) 1422**] [**Name (NI) 3397**] [**Telephone/Fax (1) 3927**] (doesn't live with him)
   -- female partner
   .
   # DISPO:
   -- ICU
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2156-2-3**] 10:19 PM
   18 Gauge - [**2156-2-3**] 11:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2156-02-05 08:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -- weaned from pressors
   -- Extubated around 5:45 pm
   -- had HD, tolerated well; got dose of vanco after HD
   -- held off on starting tube feeds overnight
   This AM, feels much better than on admission. Alert, interactive, more
   pleasant. Wants to know
what happened?
   Allergies:
   Morphine
   pt gets "itchy"
   Last dose of Antibiotics:
   Piperacillin - [**2156-2-5**] 05:19 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-2-5**] 02:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-5**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98
   HR: 91 (79 - 115) bpm
   BP: 131/73(92) {100/60(79) - 156/121(135)} mmHg
   RR: 14 (9 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 74 kg
   Height: 67 Inch
    CVP: 19 (12 - 21)mmHg
   Total In:
                                                                    846 mL
                                                                    279 mL
   PO:
   TF:
   IVF:
                                                                    646 mL
                                                                    279 mL
   Blood products:
   Total out:
                                                                     35 mL
                                                                    120 mL
   Urine:
                                                                     35 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    811 mL
                                                                    159 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 407 (407 - 456) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 0 cmH2O
   FiO2: 70%
   PIP: 6 cmH2O
   SpO2: 99%
   ABG: 7.46/49/75/33/9
   Ve: 10.9 L/min
   PaO2 / FiO2: 107
   Physical Examination
   GENERAL: pleasant, interactive, A+O x 3
   HEENT: NC/AT, poor dentition
    NECK: RIJ in place with oozing
   CARDIAC: [**State 7606**] gallop (S4?).
   LUNG: wheezing b/l, no crackles
   ABDOMEN: distended but soft, no rebound/guarding, + hepatomegaly, no
   obvious fluid wave
   EXT: extremities warmer, no cyanosis, clubbing or edema LUE fistula +
   bruit
   SKIN: LLE with superficial knee abrasion (pt reports fall)
   Labs / Radiology
   123 K/uL
   9.5 g/dL
   74 mg/dL
   4.9 mg/dL
   33 mEq/L
   4.7 mEq/L
   32 mg/dL
   96 mEq/L
   136 mEq/L
   27.9 %
   5.5 K/uL
        [image002.jpg]
                             [**2156-2-4**]  02:55 AM
                             [**2156-2-4**]  06:49 AM
                             [**2156-2-4**]  10:11 AM
                             [**2156-2-4**]  04:07 PM
                             [**2156-2-4**]  05:42 PM
                             [**2156-2-5**]  03:59 AM
   WBC
   10.7
   5.5
   Hct
   32.3
   27.9
   Plt
   229
   123
   Cr
   5.2
   4.1
   4.9
   TCO2
   29
   32
   36
   Glucose
   55
   69
   74
   Other labs: PT / PTT / INR:17.2/31.5/1.6, Lactic Acid:1.1 mmol/L,
   Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Imaging: [**2-5**] CXR
   [**2-4**] CXR
   FINDINGS: In comparison with the study of [**2-3**], the monitoring and
   support
   devices remain in place. Moderate right and small left pleural
   effusions
   persist along with bibasilar atelectasis and mild elevation of
   pulmonary
   venous pressure. More discrete opacification behind the heart could
   represent
   an area of consolidation. A lateral view would be helpful if the
   condition of
   the patient permits.
   Microbiology: [**2-3**] BCx negative
   [**2156-2-3**] 11:21 pm SPUTUM     Site: ENDOTRACHEAL
         Source: Endotracheal.
      GRAM STAIN (Final [**2156-2-4**]):
         [**11-7**] PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
      RESPIRATORY CULTURE (Preliminary):
   Assessment and Plan
   59M with CAD, CHF, DM, ESRD on HD, who presents with hypotension and
   sepsis now much improved, off pressors, extubated, mental status
   appears normal.
   # Sepsis
 had evidence of initial hypoperfusion with lactate peak in
   ED of 8.2, improved to 5.4 with fluids in ED. Unclear etiology but most
   likely source at this point appear pulmonary.
   -- CXR with worsening pulm edema and bilateral pleural effusions
   (unable to diurese given ESRD), but could [**Hospital1 **] infiltrate
   -- would therefore continue with HAP PNA antibiotics (Vanc/Zosyn), 8
   day course appropriate
   -- endotracheal sputum GS with GPCs, GPRs, follow up S/S
   -- f/u blood cultures
   -- d/c art line and CVL, has not been febrile here
   -- consider tapping pleural effusions or at least evaluating for
   loculations with U/S
   .
   # ESRD on HD: Dry weight 66 kg per OMR.
   -- received HD [**2-4**], tolerated well, but CXR [**2-5**] looks more overloaded
   with worse pleural effusions
   -- Hold nephrotoxic agents
   -- Renally dose medications
   -- continue cinecalcet
   .
   # CAD s/p MI -
   -- continue medical management with ASA, statin
   -- cautiously restart BB, ACE-I sequentially
   .
   # Chronic systolic CHF - EF 30%.
   -- unable to diurese given ESRD
   -- BP
s stable, would retysrat home BB with labetolol 100 TID
   .
   # hx of atrial tachycardia - not on Coumadin [**2-16**] GI bleeds.
   -- continue ASA, amiodarone
   -- restart BB as above
   .
   # DM: on RISS and standing NPH, but reportedly with poor compliance.
   Last HgB A1c 7.4%.
   -- insulin SS, maintain  tight glycemic control, FSG <150
   -- continue neurontin for diabetic neuropathic pain
   .
   # HyperKalemia - resolved
   .
   # Depression
   -- continue sertraline 100mg daily
   .
   # FEN/GI:
   -- adat today
   .
   # PROPHY:
   -- heparin sQ, PPI, bowel regimen
   # ACCESS:
   -- CVL placed [**2-3**] in ED
   -- PIV
   -- L arm fistula for HD
   .
   # CODE STATUS: FULL
   .
   # COMM:
   -- wife [**Name (NI) 1422**] [**Name (NI) 3397**] [**Telephone/Fax (1) 3927**] (doesn't live with him)
   -- female partner  [**Name (NI) 3952**] [**Telephone/Fax (1) 7607**]
   .
   # DISPO:
   --call out
   ICU Care
   Nutrition:
   Comments: can uptitrate diet today
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-2-3**] 10:19 PM
   18 Gauge - [**2156-2-3**] 11:16 PM
   Arterial Line - [**2156-2-4**] 08:40 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2156-02-05 12:12:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Weaned off of pressors.  Underwent HD without problem yesterday.
   Extubated in the afternoon.  No major events overnight.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Morphine
   pt gets "itchy"
   Last dose of Antibiotics:
   Piperacillin - [**2156-2-5**] 05:19 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-2-5**] 09:59 AM
   Other medications:
   lansoprazole, colace, Vancomycin, amiodarone, lipitor, sertraline,
   neurontin, cinecalcet, RISS, Benadryl PRN
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-5**] 12:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.9
   HR: 91 (91 - 97) bpm
   BP: 132/60(83) {100/60(79) - 147/143(145)} mmHg
   RR: 22 (9 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 74 kg
   Height: 67 Inch
   CVP: 24 (12 - 24)mmHg
   Total In:
                                                                    846 mL
                                                                    619 mL
   PO:
                                                                    300 mL
   TF:
   IVF:
                                                                    646 mL
                                                                    319 mL
   Blood products:
   Total out:
                                                                     35 mL
                                                                    130 mL
   Urine:
                                                                     35 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    811 mL
                                                                    489 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 407 (407 - 456) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 0 cmH2O
   FiO2: 70%
   PIP: 6 cmH2O
   SpO2: 96%
   ABG: 7.46/49/75/33/9
   Ve: 10.9 L/min
   PaO2 / FiO2: 107
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, IJ in place.
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : Bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   hepatomegaly
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   123 K/uL
   74 mg/dL
   4.9 mg/dL
   33 mEq/L
   4.7 mEq/L
   32 mg/dL
   96 mEq/L
   136 mEq/L
   27.9 %
   5.5 K/uL
         [image002.jpg]
                             [**2156-2-4**]  02:55 AM
                             [**2156-2-4**]  06:49 AM
                             [**2156-2-4**]  10:11 AM
                             [**2156-2-4**]  04:07 PM
                             [**2156-2-4**]  05:42 PM
                             [**2156-2-5**]  03:59 AM
   WBC
   10.7
   5.5
   Hct
   32.3
   27.9
   Plt
   229
   123
   Cr
   5.2
   4.1
   4.9
   TCO2
   29
   32
   36
   Glucose
   55
   69
   74
   Other labs: PT / PTT / INR:17.2/31.5/1.6, Lactic Acid:1.1 mmol/L,
   Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: Vanc level 19.
   Imaging: CXR:  Low lung volumes.  B/L opacification c/w pulmonary edema
   and moderate B/L effusions.  CVC inplace
   Microbiology: Sputum Cx: GPR and GPC on GS, Culture pending
   BCx:  NGTD
   Assessment and Plan
   59 yo M with complex medical history including CAD, ESRD presenting
   with lethargy and apparent septic shock
   Shock: Seems most c/w septic shock.  Now resolved.  New CXR findings of
   LLL opacification suggest PNA as possible source.  Abd CT preliminarily
   argues against abdominal source although he does report experiencing
   diarrhea before coming into the hospital.
     -Broad empiric coverage with Vanc/Zosyn until culture results
   definitive.
     -Check stool cultures today.
     -D/C a-line
   Respiratory Failure:  Extubated without difficulty yesterday and doing
   well today.  Does have evidence of pulmonary edema on CXR today.
     -Empiric abx for now.
     -Volume status per below. [**Month (only) 60**] need thoracentesis Rt pleural effusion
   to optimize breathing reserve
   ESRD:  Tolerated HD yesterday
     -Given significant pulmonary edema on CXR today, will have another HD
   run today with negative balance goal.
   CAD:  Not on aspirin given his history of GIB.  BB, ACE-I held
   yesterday.
     -If BP stable with UF today, will add back anti-hypertensives
    Access:  D/C a-line and central line if tolerates UF.
                  D/C foley
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2156-2-3**] 10:19 PM
   18 Gauge - [**2156-2-3**] 11:16 PM
   Arterial Line - [**2156-2-4**] 08:40 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor later today if no hemodynamic setback
   after HD
   Total time spent: 30 minutes

2156-02-06 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - HD, 2L volume removed
   - got vanco 500mg
   - d/c'd CVL, a-line
   - called out, had bed, called back due to GI bleeding (see below)
   - 7pm: 300cc BRBPR, no abd pain
   - hemodynamically stable, received 250cc bolus
   - repeat Hct 26.7 x2 (stable)
   - GI called, will see in AM, would like non-urgent CT abdomen in AM (
   concern for ischemic collitis), did not order yet, need to speak to
   renal about whether contrast can be given
   - held SC heparin
   - 2 PIVs (18g), has active t&s: crossmatched 1 unit, blood consent
   signed
   - 2 AM: restless, anxious, hypertensive--> 0.5mg IV ativan, then
   labetolol 100mg  for BP 197/104
   - BP continued to rise, tachycardic persistently in 120s, concern for
   ETOH withdrawl, started CIWA, received more ativan (total 4mg) and
   haldol (5mg)
   - AM glucose 43--> [**1-16**] amp D50--> repeat 98
   This AM, lethargic and much less responsive.
   Allergies:
   Morphine
   pt gets "itchy"
   Last dose of Antibiotics:
   Vancomycin - [**2156-2-5**] 02:30 PM
   Piperacillin - [**2156-2-5**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-2-5**] 09:59 AM
   Hydralazine - [**2156-2-6**] 03:18 AM
   Haloperidol (Haldol) - [**2156-2-6**] 03:20 AM
   Lorazepam (Ativan) - [**2156-2-6**] 05:09 AM
   Dextrose 50% - [**2156-2-6**] 06:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-6**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.9
C (96.7
   HR: 87 (87 - 121) bpm
   BP: 147/76(90) {108/76(89) - 212/104(127)} mmHg
   RR: 31 (17 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 74 kg
   Height: 67 Inch
    CVP: 20 (20 - 24)mmHg
   Total In:
                                                                  1,902 mL
                                                                     96 mL
   PO:
                                                                    900 mL
   TF:
   IVF:
                                                                  1,002 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                    160 mL
                                                                      0 mL
   Urine:
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,742 mL
                                                                     96 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   GENERAL: tired, lethargic, but NAD
   HEENT: NC/AT, poor dentition
   CARDIAC: [**State 7606**] gallop (S4?), no murmur appreciated
   LUNG: wheezing b/l, crackles at bases
   ABDOMEN: distended but soft, no rebound/guarding, + hepatomegaly, no
   obvious fluid wave
   EXT: extremities warm,, no cyanosis, clubbing or edema LUE fistula +
   bruit
   SKIN: LLE with superficial knee abrasion (pt reports fall)
   Labs / Radiology
   160 K/uL
   9.2 g/dL
   37 mg/dL
   4.7 mg/dL
   29 mEq/L
   4.5 mEq/L
   31 mg/dL
   99 mEq/L
   139 mEq/L
   26.7 %
   7.6 K/uL
        [image002.jpg]
                             [**2156-2-4**]  02:55 AM
                             [**2156-2-4**]  06:49 AM
                             [**2156-2-4**]  10:11 AM
                             [**2156-2-4**]  04:07 PM
                             [**2156-2-4**]  05:42 PM
                             [**2156-2-5**]  03:59 AM
                             [**2156-2-5**]  08:35 PM
                             [**2156-2-6**]  04:40 AM
   WBC
   10.7
   5.5
   7.6
   Hct
   32.3
   27.9
   26.7
   26.7
   Plt
   [**Telephone/Fax (3) 7629**]
   Cr
   5.2
   4.1
   4.9
   4.7
   TCO2
   29
   32
   36
   Glucose
   55
   69
   74
   37
   Other labs: PT / PTT / INR:17.2/31.5/1.6, Lactic Acid:1.1 mmol/L,
   Ca++:9.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Imaging:
   [**2-6**] CXR this AM c/w worsening pulmonary edema
   Microbiology: [**2-3**] Bcx PND
   .
   [**2156-2-3**] 11:21 pm SPUTUM     Site: ENDOTRACHEAL
         Source: Endotracheal.
      GRAM STAIN (Final [**2156-2-4**]):
         [**11-7**] PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
      RESPIRATORY CULTURE (Preliminary):    SPARSE GROWTH OROPHARYNGEAL
   FLORA.
   Assessment and Plan
   59M with CAD, CHF, DM, ESRD on HD, who presents with hypotension and
   sepsis now much improved, off pressors, extubated, mental status
   appears normal.
   # Sepsis
 had hypotension to 50/palp with evidence of initial
   hypoperfusion with lactate in ED of 8.2, but improved to 5.4 with
   fluids in ED. Unclear etiology but most likely source at this point
   appear pulmonary. Remains afebrile here.
   -- CXR with worsening pulm edema and bilateral pleural effusions, could
   [**Hospital1 **] infiltrate
   -- continue with HAP PNA antibiotics (Vanc/Zosyn), 8 day course
   appropriate (1/20
 [**2-11**])
   -- endotracheal sputum with sparse OP flora, f/u blood cultures (NGTD)
   -- stool C Diff ordered but not yet sent
   -- lines are out
   -- consider tapping pleural effusions or at least evaluating for
   loculations with U/S
   .
   # GIB
 has long history of this with multiple AVMs s/p thermal
   ablation in the past. No evidence of HD instbaility, no recurrent
   bleeding, stable HCTs
   -- check PM HCT
   -- maintain active T+S
   -- access with 2 large PIVs
   -- GI to eval today
   -- hold ASA, sQ heparin
   .
   # ESRD on HD: Dry weight 66 kg per OMR. Appears more and more volume
   overloaded during this stay.
   -- received HD [**2-5**], tolerated well, but CXR [**2-6**] looks even more
   overloaded, will try for HD again today
   -- Hold nephrotoxic agents
   -- Renally dose medications
   -- continue cinecalcet
   -- if florid pulm edema develops, will use nitro gtt
   .
   # AMS/Delirium
 unclear if related to substance withdrawal or
   worsening hypoxemia from pulmonary edema
   -- confirm with family as to any substance use prior to admission
   -- continue CIWA scale for now, caution to avoid BZD intoxication
   .
   # CAD s/p MI -
   -- continue medical management with statin, would add back po labetolol
   if possilbe today
   -- holding ACE-I for now
   .
   # Chronic systolic CHF - EF 30%.
   -- unable to diurese given ESRD
   -- BB as above, holding ACE-I
   .
   # hx of atrial tachycardia - not on Coumadin [**2-16**] GI bleeds.
   -- continue amiodarone, restart BB as above
   .
   # DM: on RISS and standing NPH, but reportedly with poor compliance.
   Last HgB A1c 7.4%.
   -- insulin SS, maintain  tight glycemic control, FSG <150
   -- d/c NPH as had hypoglycemia this AM
   -- continue neurontin for diabetic neuropathic pain
   .
   # HyperKalemia - resolved
   .
   # Depression
   -- continue sertraline 100mg daily
   .
   # FEN/GI:
   -- adat today when MS improving
   .
   # PROPHY:
   -- heparin sQ, PPI, bowel regimen
   # ACCESS:
   -- 2 large bore PIV
   -- L arm fistula for HD
   .
   # CODE STATUS: FULL
   .
   # COMM:
   -- wife [**Name (NI) 1422**] [**Name (NI) 3397**] [**Telephone/Fax (1) 3927**] (doesn't live with him)
   -- female partner  [**Name (NI) 3952**] [**Telephone/Fax (1) 7607**]
   .
   # DISPO:
   --call out
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2156-2-3**] 11:16 PM
   20 Gauge - [**2156-2-5**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2156-02-06 10:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Underwent HD yesterday-->2L removed.  Central line/ a-line d/c'd.
   BRBPR (300cc) yesterday afternoon, 250cc bolus given.  HCT stable
   overnight.  2 18 gauge peripherals placed
   At 11PM became restless, hypertensive, and agitated.  Received Ativan
   (4 total mg) and Haldol (5mg).  Blood sugar this morning noted to be
   43.
   History obtained from Patient
   Allergies:
   Morphine
   pt gets "itchy"
   Last dose of Antibiotics:
   Vancomycin - [**2156-2-5**] 02:30 PM
   Piperacillin - [**2156-2-5**] 08:00 PM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2156-2-6**] 03:18 AM
   Haloperidol (Haldol) - [**2156-2-6**] 03:20 AM
   Lorazepam (Ativan) - [**2156-2-6**] 05:09 AM
   Dextrose 50% - [**2156-2-6**] 06:17 AM
   Other medications:
   Lansoprazole, colace, amiodarone, lipitor, sertraline, MVI, neurontin,
   RISS, NPH, Benadryl PRN
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-6**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.6
C (96
   HR: 86 (86 - 121) bpm
   BP: 158/81(96) {108/76(89) - 212/104(127)} mmHg
   RR: 24 (17 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 74 kg
   Height: 67 Inch
   CVP: 20 (20 - 20)mmHg
   Total In:
                                                                  1,902 mL
                                                                    130 mL
   PO:
                                                                    900 mL
   TF:
   IVF:
                                                                  1,002 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                    160 mL
                                                                      0 mL
   Urine:
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,742 mL
                                                                    130 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: Somnolent
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar), Poor insp
   effort
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   160 K/uL
   37 mg/dL
   4.7 mg/dL
   29 mEq/L
   4.5 mEq/L
   31 mg/dL
   99 mEq/L
   139 mEq/L
   26.7 %
   7.6 K/uL
        [image002.jpg]
                             [**2156-2-4**]  02:55 AM
                             [**2156-2-4**]  06:49 AM
                             [**2156-2-4**]  10:11 AM
                             [**2156-2-4**]  04:07 PM
                             [**2156-2-4**]  05:42 PM
                             [**2156-2-5**]  03:59 AM
                             [**2156-2-5**]  08:35 PM
                             [**2156-2-6**]  04:40 AM
   WBC
   10.7
   5.5
   7.6
   Hct
   32.3
   27.9
   26.7
   26.7
   Plt
   [**Telephone/Fax (3) 7629**]
   Cr
   5.2
   4.1
   4.9
   4.7
   TCO2
   29
   32
   36
   Glucose
   55
   69
   74
   37
   Other labs: PT / PTT / INR:17.2/31.5/1.6, Lactic Acid:1.1 mmol/L,
   Ca++:9.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Imaging: No new imaging
   Microbiology: BCx:  NGTD
   Sputum Cx:  oral pharyngeal flora
   Assessment and Plan
   59 yo M with complex medical history including CAD, ESRD presenting
   with lethargy and apparent  shock.  Course c/b overnight by delirium.
   Shock: Now resolved
     -Broad empiric coverage with Vanc/Zosyn x 8 days
     -Check stool cultures today.
    Respiratory Failure:  Extubated without difficulty two days ago and
   has done well today.  Pulmonary edema and large R effusion contributing
   to oxygen requirement.
     -Empiric abx for now.
     -CXR still with diffuse bilateral infiltrates and right > left
   effusions
     -When more awake and cooperative, would tap R effusion to improve
   respiratory function and optimize breathing reserve
       - Hopefully he does not need reintubation for airway protection
    ESRD:  Tolerated HD yesterday
     -Will discuss with renal regarding timing of next HD run
   Delirium:  Pt denies any recent etoh use although episode overnight
   could be consistent with this.  Could also just be sundowning.
   Hypoxemia and  Hypoglycemia also a possibility for metabolic
   encephalopathy
     -CIWA scale today and will talk to family regarding drinking history
     -Monitor FS. Will keep NPO strictly for now
      - Use haldol/ ativan as needed
   DM:  Holding NPH for now that he is not taking PO's and had
   hypoglycemia this AM.
   GIB:  Has a history of GIB in the past with known diverticulosis and SB
   AVMs. No evidence of bleeding now, HCT stable thus far.
     -GI to see, will likely need non-urgent colonoscopy
    CAD:  Not on aspirin given his history of GIB.  BB, ACE-I held
   yesterday.
     -As long as there is no further bleeding, reasonable to restart
   anti-hypertensives today.
   Rest of plan per Resident Note
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2156-2-3**] 11:16 PM
   20 Gauge - [**2156-2-5**] 10:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes

2156-02-07 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - rpt CXR looked much worse, overt pulm edema
   - also hypertensive to 200s, restarted labetolol and lisinopril,
   treated with prn hydral
   - renal re-dialyzed, removed 4 liters
   - GI did EGD, no upper GI source for bleeding
   - had more bloody stool yesterday evening (stable HCTs)
   - no more overnight agitation
   Allergies:
   Morphine
   pt gets "itchy"
   Last dose of Antibiotics:
   Piperacillin - [**2156-2-5**] 08:00 PM
   Vancomycin - [**2156-2-6**] 09:37 PM
   Piperacillin/Tazobactam (Zosyn) - [**2156-2-7**] 05:10 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-2-6**] 12:15 PM
   Hydralazine - [**2156-2-6**] 02:06 PM
   Dextrose 50% - [**2156-2-7**] 05:22 AM
   Other medications:
   Vanco/Zosyn
   Hydralazine IV
   Lisinopril Po
   Labetolol PO
   Protonix IV QD
   Flowsheet Data as of  [**2156-2-7**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 95 (86 - 95) bpm
   BP: 117/68(78) {114/64(75) - 208/117(143)} mmHg
   RR: 24 (13 - 46) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 74 kg
   Height: 67 Inch
             Total In:
                                                                    775 mL
                                                                    228 mL
   PO:
             TF:
   IVF:
                                                                    700 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                  4,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,725 mL
                                                                    228 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   GENERAL: tired, lethargic, but NAD
   HEENT: NC/AT, poor dentition
   CARDIAC: [**State 7606**] gallop (S4?), no murmur appreciated
   LUNG: wheezing b/l, crackles at bases
   ABDOMEN: distended but soft, no rebound/guarding, + hepatomegaly, no
   obvious fluid wave
   EXT: extremities warm,, no cyanosis, clubbing or edema LUE fistula +
   bruit
   SKIN: LLE with superficial knee abrasion (pt reports fall)
   Labs / Radiology
   147 K/uL
   9.3 g/dL
   57 mg/dL
   3.9 mg/dL
   28 mEq/L
   4.0 mEq/L
   23 mg/dL
   102 mEq/L
   142 mEq/L
   27.8 %
   4.7 K/uL
        [image002.jpg]
                             [**2156-2-4**]  06:49 AM
                             [**2156-2-4**]  10:11 AM
                             [**2156-2-4**]  04:07 PM
                             [**2156-2-4**]  05:42 PM
                             [**2156-2-5**]  03:59 AM
                             [**2156-2-5**]  08:35 PM
                             [**2156-2-6**]  04:40 AM
                             [**2156-2-6**]  03:30 PM
                             [**2156-2-6**]  08:37 PM
                             [**2156-2-7**]  03:05 AM
   WBC
   5.5
   7.6
   4.7
   Hct
   27.9
   26.7
   26.7
   26.3
   29.7
   27.8
   Plt
   123
   160
   147
   Cr
   4.1
   4.9
   4.7
   3.9
   TCO2
   29
   32
   36
   Glucose
   69
   74
   37
   57
   Other labs: PT / PTT / INR:15.4/31.5/1.4, Ca++:9.3 mg/dL, Mg++:1.8
   mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: Vanco 21.4
   Imaging: [**2156-2-7**] CXR:
   Microbiology: [**2156-2-6**] C diff: negative
   [**2156-2-3**] sputum: SPARSE GROWTH OROPHARYNGEAL FLORA
   [**2156-2-3**] Bcx x 2: NGTD
   Assessment and Plan
   59M with CAD, CHF, DM, ESRD on HD, who presents with hypotension and
   sepsis now much improved, off pressors, extubated, mental status
   appears normal.
   # Sepsis
 had hypotension to 50/palp with evidence of initial
   hypoperfusion with lactate in ED of 8.2, but improved to 5.4 with
   fluids in ED. Unclear etiology but most likely source at this point
   appear pulmonary. Remains afebrile here.
   -- CXR with worsening pulm edema and bilateral pleural effusions, could
   [**Hospital1 **] infiltrate
   -- continue with HAP PNA antibiotics (Vanc/Zosyn), 8 day course
   appropriate (1/20
 [**2-11**])
   -- endotracheal sputum with sparse OP flora, f/u blood cultures (NGTD)
   -- stool C Diff ordered but not yet sent
   -- lines are out
   -- consider tapping pleural effusions or at least evaluating for
   loculations with U/S
   # GIB
 has long history of this with multiple AVMs s/p thermal
   ablation in the past. No evidence of HD instbaility, no recurrent
   bleeding, stable HCTs
   -- check PM HCT
   -- maintain active T+S
   -- access with 2 large PIVs
   -- GI to eval today
   -- hold ASA, sQ heparin
   # ESRD on HD: Dry weight 66 kg per OMR. Appears more and more volume
   overloaded during this stay.
   -- received HD [**2-5**], tolerated well, but CXR [**2-6**] looks even more
   overloaded, will try for HD again today
   -- Hold nephrotoxic agents
   -- Renally dose medications
   -- continue cinecalcet
   -- if florid pulm edema develops, will use nitro gtt
   # AMS/Delirium
 unclear if related to substance withdrawal or
   worsening hypoxemia from pulmonary edema
   -- confirm with family as to any substance use prior to admission
   -- continue CIWA scale for now, caution to avoid BZD intoxication
   # CAD s/p MI -
   -- continue medical management with statin, would add back po labetolol
   if possilbe today
   -- holding ACE-I for now
   # Chronic systolic CHF - EF 30%.
   -- unable to diurese given ESRD
   -- BB as above, holding ACE-I
   # hx of atrial tachycardia - not on Coumadin [**2-16**] GI bleeds.
   -- continue amiodarone, restart BB as above
   # DM: on RISS and standing NPH, but reportedly with poor compliance.
   Last HgB A1c 7.4%.
   -- insulin SS, maintain  tight glycemic control, FSG <150
   -- d/c NPH as had hypoglycemia this AM
   -- continue neurontin for diabetic neuropathic pain
   # HyperKalemia - resolved
   # Depression
   -- continue sertraline 100mg daily
   # FEN/GI:
   -- adat today when MS improving
   # PROPHY:
   -- heparin sQ, PPI, bowel regimen
   # ACCESS:
   -- 2 large bore PIV
   -- L arm fistula for HD
   # CODE STATUS: FULL
   # COMM:
   -- wife [**Name (NI) 1422**] [**Name (NI) 3397**] [**Telephone/Fax (1) 3927**] (doesn't live with him)
   -- female partner  [**Name (NI) 3952**] [**Telephone/Fax (1) 7607**]
   # DISPO:
   --call out
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2156-2-3**] 11:16 PM
   20 Gauge - [**2156-2-5**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2156-02-07 10:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Underwent EGD yesterday afternoon--> no signs of active upper
   bleeding.  Brown stool this AM
   Underwent HD with 4L removed.
   Some episodes of HTN yesterday, responded to IV hydralazine.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Morphine
   pt gets "itchy"
   Last dose of Antibiotics:
   Piperacillin - [**2156-2-5**] 08:00 PM
   Vancomycin - [**2156-2-6**] 09:37 PM
   Piperacillin/Tazobactam (Zosyn) - [**2156-2-7**] 05:10 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-2-6**] 12:15 PM
   Hydralazine - [**2156-2-6**] 02:06 PM
   Dextrose 50% - [**2156-2-7**] 05:22 AM
   Other medications:
   Colace, amiodarone, lipitor, zoloft, gabapentin, cinecalcet, RISS,
   labetalol, lisinopril
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-2-7**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.7
   HR: 95 (87 - 97) bpm
   BP: 138/84(97) {114/64(75) - 208/117(143)} mmHg
   RR: 19 (13 - 46) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 74 kg
   Height: 67 Inch
             Total In:
                                                                    775 mL
                                                                    368 mL
   PO:
             120 mL
   TF:
   IVF:
                                                                    700 mL
                                                                    198 mL
   Blood products:
   Total out:
                                                                  4,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,725 mL
                                                                    368 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), S3, No(t) S4, (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : diffuse B/L)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   147 K/uL
   57 mg/dL
   3.9 mg/dL
   28 mEq/L
   4.0 mEq/L
   23 mg/dL
   102 mEq/L
   142 mEq/L
   27.8 %
   4.7 K/uL
        [image002.jpg]
                             [**2156-2-4**]  06:49 AM
                             [**2156-2-4**]  10:11 AM
                             [**2156-2-4**]  04:07 PM
                             [**2156-2-4**]  05:42 PM
                             [**2156-2-5**]  03:59 AM
                             [**2156-2-5**]  08:35 PM
                             [**2156-2-6**]  04:40 AM
                             [**2156-2-6**]  03:30 PM
                             [**2156-2-6**]  08:37 PM
                             [**2156-2-7**]  03:05 AM
   WBC
   5.5
   7.6
   4.7
   Hct
   27.9
   26.7
   26.7
   26.3
   29.7
   27.8
   Plt
   123
   160
   147
   Cr
   4.1
   4.9
   4.7
   3.9
   TCO2
   29
   32
   36
   Glucose
   69
   74
   37
   57
   Other labs: PT / PTT / INR:15.4/31.5/1.4, Lactic Acid:1.1 mmol/L,
   Ca++:9.3 mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: Vanco 21.4
   Imaging: CXR:  Significantly improved B/L opacities c/w resolving edema
   Microbiology: C diff:  neg
   Sputum Cx:  OP flora
   BCx:  NGTD
   Assessment and Plan
   59 yo M with complex medical history including CAD, ESRD presenting
   with lethargy and apparent  shock.  Course c/b delirium (improved) and
   GIB.
   Shock: Now resolved.  Most likely source remains LLL pneumonia
     -Broad empiric coverage with Vanc/Zosyn x 8 days
    Respiratory Failure:  Extubated without difficulty two days ago and
   has done well today.  Pulmonary edema and large R effusion contributing
   to oxygen requirement.
     -Empiric abx for now.
     -Volume status dramatically improved with UF yesterday.
     -At some point this admission, would tap R effusion to improve
   respiratory function and optimize breathing reserve
   GIB:  EGD negative yesterday, HCT has been quite stable throughout.
     -If bleeding becomes vigorous, consider tagged RBC scan
     -Otherwise, plan for Colonoscopy on Monday with Prep on Sunday per GI
     -Maintain 2 P-IV
     -Keep active Type and Cross
    ESRD:  Tolerated HD yesterday
     -Will likely need next run on Monday
   Delirium:  Pt and his live-in girlfriend denies any recent etoh use,
   episode two night ago seems most c/w sundowning.
     -Avoid benzos for delirium would only use Haldol PRN.
   DM:  Once taking full PO's can go back on NPH, otherwise continue RISS
   for now.
    CAD:  Not on aspirin given his history of GIB.
     -Continue BB given his hemodynamic stability.
   Rest of plan per Resident Note
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2156-2-3**] 11:16 PM
   20 Gauge - [**2156-2-5**] 10:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes